US04760163
using isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-benzoate and dimethyl sulphate in dimethylformamide there is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3-methyl-4-trifluoromethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, 1H--NMR (CDCl3, 400 MHz) 7.84 ppm (d, 1H), 7.37 ppm (d, 1H), 6.38 ppm (s, 1H), 5.25 ppm (m, 1H), 3.57 ppm (d, 3H), 1,36 ppm (d, 6H),

reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O | C15H11ClF4N2O4
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3-methyl-4-trifluoromethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H13ClF4N2O4
